************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: AND3X6
* View Name:     schematic
* Netlisted on:  Jun  4 07:38:06 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS:G
+        VDD:P
+        ExtVDD:P
+        ExtVSS:G

*.PIN VSS
*+    VDD
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    AND3X6
* View Name:    schematic
************************************************************************

.SUBCKT AND3X6 A B C VDD VSS Y
*.PININFO A:I B:I C:I VDD:I VSS:I Y:O
Mmn3 Y net95 VSS VSS g45n1svt m=1 l=45n w=1.55u
Mmn1 net107 B net103 VSS g45n1svt m=1 l=45n w=520n
Mmn0 net103 A VSS VSS g45n1svt m=1 l=45n w=520n
Mmn2 net95 C net107 VSS g45n1svt m=1 l=45n w=520n
Mmp1 net95 B VDD VDD g45p1svt m=1 l=45n w=780n
Mmp2 net95 C VDD VDD g45p1svt m=1 l=45n w=780n
Mmp0 net95 A VDD VDD g45p1svt m=1 l=45n w=780n
Mmp3 Y net95 VDD VDD g45p1svt m=1 l=45n w=2.35u
.ENDS

